US07015329B2
2-Methyl-2-o-tolyloxy-propionic acid ethyl ester
To a mixture of 2-bromo-2-methylpropionic acid ethyl ester (8.27 mL, 64.0 mmol) and 2-methylphenol (7.60 g, 70.2 mmol) in dioxane (100 mL) was added Cs2CO3 (31.3 g, 96.0 mmol). After the mixture was refluxed at 100° C. for 4 hours and allowed to cool down to room temperature, the solvent was evaporated under reduced pressure. The residue was dissolved in Et2O, washed with 1 N NaOH, dried, and concentrated to give 9.69 g (68%) of D1a; 1H NMR (300 MHz, CDCl3) δ 7.13 (d, J=7.3 Hz, 1 H), 7.03 (t, J=7.6 Hz, 1 H), 6.87 (t, J=7.3 Hz, 1 H), 6.66 (d, J=8.2 Hz, 1 H), 4.24 (q, J=7.1 Hz, 2 H), 2.23 (s, 3 H), 1.59 (s, 6 H), 1.25 (t, J=7.1 Hz).

reactant | 2-bromo-2-methylpropionic acid ethyl ester | 64.0 mmol, 8.27 mL | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | 2-methylphenol | 70.2 mmol, 7.60 g | CC1=C(C=CC=C1)O | C7H8O
reactant | Cs2CO3 | 96.0 mmol, 31.3 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 2-Methyl-2-o-tolyloxy-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=CC=C1)C)C)=O | C13H18O3
